US05256782
To a mixture of 4-(2-chlorophenyl)-6,7-dihydro-2 -ethyl-7-methyl-6-oxothieno[2,3-b]pyridine-5-carboxylic acid (347 mg), diphenylphosphoryl azide (330 mg) and benzene (4 ml) was added dropwise triethylamine (0.14 ml). The mixture was stirred at room temperature for 30 minutes, stirred under reflux for 30 minutes and then 2,4-difluoroaniline (0.12 ml) was added. The mixture was refluxed for 4 hours, washed with water, dried over MgSO4, and then the solvent was distilled off. The residue was chromatographed on a silica gel and eluted with chloroform/ethyl acetate/metanol (9:1:0.25). The solvent was distilled off to obtain N-[4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-7-methyl-6-oxothieno[2,3-b]pyridin-5-yl]-N'-(2,4-difluorophenyl)urea as colorless powder (210 mg, 44.4%).

reactant | 4-(2-chlorophenyl)-6,7-dihydro-2 -ethyl-7-methyl-6-oxothieno[2,3-b]pyridine-5-carboxylic acid | 347 mg | ClC1=C(C=CC=C1)C=1C2=C(N(C(C1C(=O)O)=O)C)SC(=C2)CC | C17H14ClNO3S
reactant | diphenylphosphoryl azide | 330 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzene | 4 ml | C1=CC=CC=C1 | C6H6
reactant | 2,4-difluoroaniline | 0.12 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-7-methyl-6-oxothieno[2,3-b]pyridin-5-yl]-N'-(2,4-difluorophenyl)urea | 210 mg, 44.4% | ClC1=C(C=CC=C1)C=1C2=C(N(C(C1NC(=O)NC1=C(C=C(C=C1)F)F)=O)C)SC(=C2)CC | C23H18ClF2N3O2S
